US06576656B1
(2) 1-(2-Diethylaminoethyl)-7-iodo-4-trifluoromethylisatin
The title compound (245 mg, 76%) was prepared from 7-iodo-4-trifluoromethylisatin (250 mg, 0.733 mmol) and 2-chloroethyl-N,N-diethylamine hydrochloride by the procedure similar to that described in Reference Example 8.

reactant | 7-iodo-4-trifluoromethylisatin | 0.733 mmol, 250 mg | IC=1C=CC(=C2C(C(NC12)=O)=O)C(F)(F)F | C9H3F3INO2
reactant | 2-chloroethyl-N,N-diethylamine hydrochloride | Cl.ClCCN(CC)CC
product | 1-(2-Diethylaminoethyl)-7-iodo-4-trifluoromethylisatin | 245 mg, 76% | C(C)N(CCN1C(=O)C(=O)C2=C(C=CC(=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
